US08304446B2
N-[1-{[3-(Aminomethyl)phenyl]methyl}-5-fluoro-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide
1,1-Dimethylethyl[(3-{[3-{[(5-chloro-2-thienyl)sulfonyl]amino}-5-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]carbamate (for a preparation see Intermediate 60) (2.7 g, 4.65 mmol) was dissolved in dichloromethane (20 mL). Trifluoroacetic acid (5.00 mL) was added to the reaction and stirred for 1 h. The reaction mixture was concentrated in vacuo to leave a purple residue. The residue was dissolved in methanol and loaded onto a methanol pre-conditioned SCX-2 ion-exchange cartridge (70 g). The cartridge was washed well with methanol, followed by HCl in methanol, then methanol and finally ammonia in methanol. Fractions were combined and evaporated in vacuo to give an off white solid, which was dissolved in DMSO, filtered and loaded onto a methanol pre-conditioned SCX-2 ion-exchange cartridge (70 g). The cartridge was washed well with Methanol followed by 2M ammonia in methanol. Evaporation of the solvent from the ammoniacal fractions gave the title compound (1 g, 45%) as a white solid: LCMS (System A) RT=0.84 min, ES+ve m/z 481/483 (M+H)+.

reactant | 1,1-Dimethylethyl[(3-{[3-{[(5-chloro-2-thienyl)sulfonyl]amino}-5-fluoro-4-(methyloxy)-1H-indazol-1-yl]methyl}phenyl)methyl]carbamate | CC(C)(C)N(C([O-])=O)CC1=CC(=CC=C1)CN1N=C(C2=C(C(=CC=C12)F)OC)NS(=O)(=O)C=1SC(=CC1)Cl
reactant | Trifluoroacetic acid | 5.00 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 20 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | DMSO | CS(=O)C | C2H6OS
product | N-[1-{[3-(Aminomethyl)phenyl]methyl}-5-fluoro-4-(methyloxy)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | 1 g, 45% | NCC=1C=C(C=CC1)CN1N=C(C2=C(C(=CC=C12)F)OC)NS(=O)(=O)C=1SC(=CC1)Cl | C20H18ClFN4O3S2
